US07259183B2
To a solution of n-BuLi (2.79 ml, 1.6M solution in hexane, 4.46 mmol) in ether was added solid methyltriphenylphosphonium bromide (1.59 g, 4.46 mmol) in three portions. The mixture was stirred at rt for 4 h, and then a solution of 4-bromopropio-phenone (1.00 g, 4.69 mmol) in ether was added and the mixture was gently refluxed overnight. The mixture was filtered and the filtrate was washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography to give 1-bromo-4-(1-methylenepropyl)-benzene (310 mg, 31%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 7.45 (d, J=9.0 Hz, 2H), 7.28 (d, J=9.0 Hz, 2H), 5.26 (m, 1H), 5.07 (m, 1H), 2.48 (q, J=7.5 Hz, 2H), 1.09 (t, J=7.5 Hz, 3H).

reactant | n-BuLi | 4.46 mmol, 1.6M, 2.79 ml | [Li]CCCC
reactant | 4-bromopropio-phenone | 4.69 mmol, 1.00 g | CCC(=O)C1=CC=C(C=C1)Br | C9H9BrO
solvent | ether | CCOCC | C4H10O
catalyst | methyltriphenylphosphonium bromide | 4.46 mmol, 1.59 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-bromo-4-(1-methylenepropyl)-benzene | 310 mg, 31% | BrC1=CC=C(C=C1)C(CC)=C | C10H11Br
